US07399759B2
tert-Butyl 3-[6-(8-methyl-4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propanoate
A mixture of 3-methylthiosalicylic acid (2.52 g, 15 mmol), tert-butyl 3-(6-cyano-2-pyridyl)propanoate (2.32 g, 10 mmol) and pyridine (30 ml) was refluxed under nitrogen atmosphere for 20 hrs and concentrated under reduced pressure. The residue was subjected to a silica gel (100 g) column chromatography. The titled compound (2.79 g, 73%) was given from the fractions eluted with hexane-ethyl acetate (2:1, v/v), which were recrystallized from ethyl acetate-isopropyl ether.

reactant | 3-methylthiosalicylic acid | 15 mmol, 2.52 g | CC1=C(C(C(=O)O)=CC=C1)S | C8H8O2S
reactant | tert-butyl 3-(6-cyano-2-pyridyl)propanoate | 10 mmol, 2.32 g | C(#N)C1=CC=CC(=N1)CCC(=O)OC(C)(C)C | C13H16N2O2
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | tert-Butyl 3-[6-(8-methyl-4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propanoate | CC1=CC=CC=2C(N=C(SC21)C2=CC=CC(=N2)CCC(=O)OC(C)(C)C)=O | C21H22N2O3S
